US08710049B2
J: Benzyl (1R,2R)-2-((S)-3-methyl-1-(4-nitrophenyl)piperidin-3-ylamino)cyclohexylcarbamate
A solution of benzyl 7-azabicyclo[4.1.0]heptane-7-carboxylate (170 mg, 0.733 mmol) in CH2Cl2 (1 mL) was added to a 25 mL flask containing (S)-3-methyl-1-(4-nitrophenyl)piperidin-3-amine (115 mg, 0.489 mmol). Then lithium bis(trifluoromethylsulfonyl)amide (28.1 mg, 0.098 mmol) was added in one portion. The resulting greenish orange mixture was stirred at 45° C. under argon for 3 days. The reaction was cooled to rt and diluted with CH2Cl2. Then saturated aqueous NaHCO3 solution (4 mL) was added to the reaction and the reaction was stirred at rt for 30 min. The separated aqueous layer was extracted with CH2Cl2 (3×). The combined organic layers were washed with saturated aqueous NaCl, dried over Na2SO4, filtered and concentrated. The residue was purified using ISCO column eluting with a gradient of 50-100% EtOAc/Hex. Two diastereomers were separated. The slower eluting fraction which had shorter Rf was the desired product. The fractions containing the desired product were concentrated to give the title compound, benzyl (1R,2R)-2-((S)-3-methyl-1-(4-nitrophenyl)piperidin-3-ylamino)cyclohexylcarbamate (37 mg, 0.079 mmol, 16.2% yield) as a yellow oil. Anal. Calcd. for C26H34N4O4 m/z 466.5, found: 467.3 (M+H)+; 1H NMR (400 MHz, CDCl3) δ ppm 8.08-7.96 (m, 2H), 7.39-7.29 (m, 5H), 6.75 (d, J=9.34 Hz, 2H), 5.13-5.01 (m, 2H), 3.38-3.28 (m, 1H), 3.24 (d, J=12.64 Hz, 1H), 3.19-3.07 (m, 2H), 2.98 (d, J=12.64 Hz, 1H), 2.43-2.29 (m, 1H), 2.21-2.09 (m, 1H), 2.02-1.91 (m, 1H), 1.88-1.77 (m, 1H), 1.67-1.57 (m, 4H), 1.55-1.44 (m, 3H), 1.35-1.15 (m, 4H), 1.07 (s, 3H).

reactant | benzyl 7-azabicyclo[4.1.0]heptane-7-carboxylate | 0.733 mmol, 170 mg | C12CCCCC2N1C(=O)OCC1=CC=CC=C1 | C14H17NO2
reactant | (S)-3-methyl-1-(4-nitrophenyl)piperidin-3-amine | 0.489 mmol, 115 mg | C[C@]1(CN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-])N | C12H17N3O2
reactant | lithium bis(trifluoromethylsulfonyl)amide | 0.098 mmol, 28.1 mg | FC(S(=O)(=O)[N-]S(=O)(=O)C(F)(F)F)(F)F.[Li+]
reactant | NaHCO3 | 4 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | benzyl (1R,2R)-2-((S)-3-methyl-1-(4-nitrophenyl)piperidin-3-ylamino)cyclohexylcarbamate | 0.079 mmol, 37 mg, 16.2% yield | C[C@]1(CN(CCC1)C1=CC=C(C=C1)[N+](=O)[O-])N[C@H]1[C@@H](CCCC1)NC(OCC1=CC=CC=C1)=O | C26H34N4O4
